Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O=[CH:1][CH:2]1[CH2:3][CH2:4][CH2:5][CH2:6][CH2:7]1.[O:8]=[C:9]([CH2:10][CH2:11][NH:12][C:13](=[O:14])[O:15][CH2:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[NH:23][CH2:24][C@H:25]1[CH2:26][CH2:27][CH2:28][NH:29][CH2:30]1>>[CH2:1]([CH:2]1[CH2:3][CH2:4][CH2:5][CH2:6][CH2:7]1)[N:29]1[CH2:28][CH2:27][CH2:26][C@H:25]([CH2:24][NH:23][C:9](=[O:8])[CH2:10][CH2:11][NH:12][C:13](=[O:14])[O:15][CH2:16][c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[CH2:30]1,[O:8]=[C:9]([CH2:10][CH2:11][NH:12][C:13](=[O:14])[O:15][CH2:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[NH:23][CH2:24][C@H:25]1[CH2:26][CH2:27][CH2:28][NH:29][CH2:30]1.[O:101]=[CH:1][CH:2]1[CH2:3][CH2:4][CH2:5][CH2:6][CH2:7]1.[H+:301].[BH3-:302]C#N.[Na+]>>[CH2:1]([CH:2]1[CH2:3][CH2:4][CH2:5][CH2:6][CH2:7]1)[N:29]1[CH2:28][CH2:27][CH2:26][C@H:25]([CH2:24][NH:23][C:9](=[O:8])[CH2:10][CH2:11][NH:12][C:13](=[O:14])[O:15][CH2:16][c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[CH2:30]1,reductive_amination,"[(29, 1), ([1, 101], 301), (101, 29.1), ([29.1, 29], 29), (29, [29, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 29], 29)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[C:1]([c:2]1[c:3]([CH3:4])[c:5]2[c:6]([n:7][cH:8]1)[cH:9][cH:10][c:11]([O:12][CH2:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[n:20]2)[NH2:21]>>[C:1]([c:2]1[c:3]([CH3:4])[c:5]2[c:6]([n:7][cH:8]1)[cH:9][cH:10][c:11]([O:12][CH2:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[n:20]2)#[N:21],[O:101]=[C:1]([c:2]1[c:3]([CH3:4])[c:5]2[c:6]([n:7][cH:8]1)[cH:9][cH:10][c:11]([O:12][CH2:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[n:20]2)[NH2:21].[Cl:301][S:302]([Cl:303])=[O:304]>>[C:1]([c:2]1[c:3]([CH3:4])[c:5]2[c:6]([n:7][cH:8]1)[cH:9][cH:10][c:11]([O:12][CH2:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[n:20]2)#[N:21],primary_amide_dehydration,"[(21, [21, 1]), ([1, 101], 302), ([302, 304], 304), (304, [304, 302]), ([302, 301], 21.1), ([21.1, 21], 21), ([302, 303], 21.1), ([21.1, 21], [21, 1]), ([1, 101], [101, 302])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[CH:1]1[CH2:2][c:3]2[c:4]([cH:5][cH:6][c:7]([C:8]([F:9])([F:10])[F:11])[cH:12]2)[S:13][c:14]2[c:15]1[cH:16][cH:17][cH:18][cH:19]2.[O:20]=[C:21]1[O:22][CH2:23][CH2:24][N:25]1[CH2:26][CH2:27][N:28]1[CH2:29][CH2:30][NH:31][CH2:32][CH2:33]1>>[CH:1]1([N:31]2[CH2:30][CH2:29][N:28]([CH2:27][CH2:26][N:25]3[C:21](=[O:20])[O:22][CH2:23][CH2:24]3)[CH2:33][CH2:32]2)[CH2:2][c:3]2[c:4]([cH:5][cH:6][c:7]([C:8]([F:9])([F:10])[F:11])[cH:12]2)[S:13][c:14]2[c:15]1[cH:16][cH:17][cH:18][cH:19]2,[Cl:101][CH:1]1[CH2:2][c:3]2[c:4]([cH:5][cH:6][c:7]([C:8]([F:9])([F:10])[F:11])[cH:12]2)[S:13][c:14]2[c:15]1[cH:16][cH:17][cH:18][cH:19]2.[O:20]=[C:21]1[O:22][CH2:23][CH2:24][N:25]1[CH2:26][CH2:27][N:28]1[CH2:29][CH2:30][NH:31][CH2:32][CH2:33]1>>[CH:1]1([N:31]2[CH2:30][CH2:29][N:28]([CH2:27][CH2:26][N:25]3[C:21](=[O:20])[O:22][CH2:23][CH2:24]3)[CH2:33][CH2:32]2)[CH2:2][c:3]2[c:4]([cH:5][cH:6][c:7]([C:8]([F:9])([F:10])[F:11])[cH:12]2)[S:13][c:14]2[c:15]1[cH:16][cH:17][cH:18][cH:19]2,SN2,"[(31, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[c:1]1[c:2]([N+:3](=[O:4])[O-:5])[cH:6][c:7]([Br:8])[cH:9][cH:10]1.[NH2:11][CH2:12][C:13]1([OH:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[c:1]1([NH:11][CH2:12][C:13]2([OH:14])[CH2:15][CH2:16][CH2:17][CH2:18]2)[c:2]([N+:3](=[O:4])[O-:5])[cH:6][c:7]([Br:8])[cH:9][cH:10]1,[Br:101][c:1]1[c:2]([N+:3](=[O:4])[OH:5])[cH:6][c:7]([Br:8])[cH:9][cH:10]1.[NH2:11][CH2:12][C:13]1([OH:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[c:1]1([NH:11][CH2:12][C:13]2([OH:14])[CH2:15][CH2:16][CH2:17][CH2:18]2)[c:2]([N+:3](=[O:4])[OH:5])[cH:6][c:7]([Br:8])[cH:9][cH:10]1,SNAr(ortho),"[(11, 1), ([1, 2], [2, 3]), ([3, 4], 4), (4, [4, 3]), ([3, 2], [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
